US06229011B1
To a solution of 4-amino-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester (5.09 g, 17 mmol) in DMF (60 mL) was added Fmoc-D-Phenylalanine (8.70 g, 22.5 mmol), DIPEA (12 mL, 69 mmol) and HBTU (8.50 g, 22.5 mmol). The mixture was then stirred at room temperature for 4 h. The reaction mixture was diluted with water (150 mL) and the light yellow solid which precipitated was collected by filtration. This solid was then redissolved in 60 mL of acetone and the solution was treated with 100 mL of water. The solid was collected by filtration and was washed with 1N HCl, H2O. After drying at 60° C. under vacuum overnight, a light yellow solid was obtained (13.2 g). A portion of this solid (2.51 g, 3.78 mmol) was dissolved in 15 mL of DMF and to the solution was added 1.5 mL of piperidine. The above solution was stirred at room temperature for 45 min. After removal of the solvent, the residue was recrystallized from ethyl acetate-hexane to give N-[(1,1-dimethylethoxy)carbonyl]-4-[[(2R)-2-amino-1-oxo-3-phenylpropyl]amino]-L-phenylalanine methyl ester (1.36 g, 3.0 mmol )in 81.5% yield. LR MS 442 (M+H).

reactant | 4-amino-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester | 17 mmol, 5.09 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)N)=O | C15H22N2O4
reactant | Fmoc-D-Phenylalanine | 22.5 mmol, 8.70 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@H](CC1=CC=CC=C1)C(=O)O | C24H21NO4
reactant | DIPEA | 69 mmol, 12 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 22.5 mmol, 8.50 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | piperidine | 1.5 mL | N1CCCCC1 | C5H11N
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-[(1,1-dimethylethoxy)carbonyl]-4-[[(2R)-2-amino-1-oxo-3-phenylpropyl]amino]-L-phenylalanine methyl ester | 81.5% yield | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)NC([C@@H](CC1=CC=CC=C1)N)=O)=O | C24H31N3O5
